US08957069B2
2-[4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine-1-yl]pyrimidine
To a solution of DMSO (12 mL) containing 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (1.1 g, 4.00 mmol) synthesized in Reference Example 61, 2-bromopyrimidine (954 mg, 6.0 mmol) and diisopropylethylamine (2.09 mL) were added, and the mixture was stirred at 120° C. for 2 hours. The reaction solution was diluted with ethyl acetate, and washed with water and saturated saline. The organic layer was dried using magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate 9:1). The obtained solid was recrystallized from ethanol-water to obtain 600 mg of the title compound (yield 42%).

reactant | DMSO | 12 mL | CS(=O)C | C2H6OS
reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 4.00 mmol, 1.1 g | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 2-bromopyrimidine | 6.0 mmol, 954 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | diisopropylethylamine | 2.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine-1-yl]pyrimidine | 600 mg, yield 42% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C2=NC=CC=N2)C)C | C21H28N4O
